US07402608B2
A solution 5-methyl-[1,3]dioxane-2-carboxylic acid (53 mg, 0.47 mmol)in 1,2-dichloroethane at 0° C. was treated with PPh3 (124 mg, 0.47 mmol), NCS (63 mg, 0.47 mmol) and isopropylamino-5-phenyl-thiophene-2-carboxylic acid methyl ester (100 mg, 0.36 mmol). The reaction was heated at reflux for 3 days. The mixture was evaporated to a residue that was purified by silica gel column chromatography using EtOAc:hexanes as eluent to furnished 3-[isopropyl-(5-methyl-[1,3]dioxane-2-carbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (51.8 mg, 35% yield). 1H NMR (CDCl3, 400 MHz): 7.65 (d, 2H), 7.42 (m, 3H), 7.10 (s, 1H), 4.90 (q, 1H), 4.55 (s, 1H), 4.00 (dd, 1H), 3.90 (dd, 1H), 3.85 (s, 3H), 3.10 (t, 1H), 2.95 (t, 1H), 2.10 (m, 1H), 1.25 (d, 3H), 1.05 (d, 3H), 0.58 (d, 3H).

reactant | 5-methyl-[1,3]dioxane-2-carboxylic acid | 0.47 mmol, 53 mg | CC1COC(OC1)C(=O)O | C6H10O4
reactant | PPh3 | 0.47 mmol, 124 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | NCS | 0.47 mmol, 63 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | isopropylamino-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.36 mmol, 100 mg | COC(=O)C=1SC(=CC1NC(C)C)C1=CC=CC=C1 | C15H17NO2S
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 3-[isopropyl-(5-methyl-[1,3]dioxane-2-carbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 51.8 mg, 35% yield | COC(=O)C=1SC(=CC1N(C(=O)C1OCC(CO1)C)C(C)C)C1=CC=CC=C1 | C21H25NO5S
